US07517994B2
Step D: Preparation of 5-hydroxy-2,6-dimethylpyridazin-3(2H)-one:
A mixture of methyl 5-hydroxy-2,6-dimethyl-3-oxo-2,3-dihydropyridazine-4-carboxylate (3.00 g, 15.1 mmol) and 6 N aqueous HCl (25 mL, 150 mmol) in dioxane (25 mL) was refluxed for 48 hours. The reaction mixture was cooled to room temperature and concentrated under reduced pressure to give the crude material that was diluted with EtOAc. The organic layer was washed with water and brine, dried over MgSO4, filtered, and concentrated under reduced pressure to give 0.74 g (35%) of the desired product. The aqueous layer was concentrated under reduced pressure. The resulting solid was diluted with water and EtOAc-THF. The organic layer was separated. The aqueous layer was extracted with EtOAc (2×). The combined organic layers were dried over MgSO4, filtered, and concentrated under reduced pressure to give 0.80 g (37%) of the additional desired product. A total of 1.54 g (72%) of the desired product was obtained, which was used directly without further purification.

reactant | methyl 5-hydroxy-2,6-dimethyl-3-oxo-2,3-dihydropyridazine-4-carboxylate | 15.1 mmol, 3.00 g | OC1=C(C(N(N=C1C)C)=O)C(=O)OC | C8H10N2O4
reactant | HCl | 150 mmol, 6 N, 25 mL | Cl | ClH
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-hydroxy-2,6-dimethylpyridazin-3(2H)-one | 0.74 g, 35% | OC1=CC(N(N=C1C)C)=O | C6H8N2O2
